US07449477B2
A mixture of 7-bromo-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide carbamic acid t-butyl ester (1.50 g, 3.49 mmol), 2-phenyl-1,3,2-dioxaborinane (1.129 g, 6.98 mmol), Pd(dppb)Cl2 (211 mg, 0.0349 mmol) and Na2CO3 (2.0M, 12 mL) in ethylene glycol dimethyl ether (60 mL) and CH3OH (15 mL) is heated to 80° C. (oil bath) with stirring overnight. After cooling to room temperature, the mixture is diluted with EtOAc, filtered and concentrated. The residue is dissolved in EtOAc, washed with brine and dried over Na2SO4. The crude material is chromatographed on silica gel (gradient 50% EtOAc in hexane) to give 1.45 g (97% yield) 7-phenyl-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide carbamic acid t-butyl ester.

reactant | 7-bromo-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide carbamic acid t-butyl ester | 3.49 mmol, 1.50 g | C(C)(C)(C)OC(N)=O.NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)Br
reactant | 2-phenyl-1,3,2-dioxaborinane | 6.98 mmol, 1.129 g | C1(=CC=CC=C1)B1OCCCO1 | C9H11BO2
reactant | Na2CO3 | 2.0M, 12 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 60 mL | COCCOC | C4H10O2
solvent | CH3OH | 15 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-phenyl-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide carbamic acid t-butyl ester | 1.45 g, 97% yield | C(C)(C)(C)OC(N)=O.NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1 | InChI=1S/C17H17N3O2S.C5H11NO2/c18-7-9-20-23(21,22)17-11-14(13-4-2-1-3-5-13)10-15-12-19-8-6-16(15)17;1-5(2,3)8-4(6)7/h1-6,8,10-12,20H,7,9,18H2;1-3H3,(H2,6,7)
